US08278441B2
1,5-Dibromo-2,4-difluorobenzene
Iron powder (16.49 g, 291 mmol) is added to 1-bromo-2,4-difluorobenzene (110 mL, 968 mmol) in 1,2-dichloroethane (968 mL) in a 3-neck flask at ambient temperature under a stream of nitrogen. A solution of bromine (59.7 mL, 1.16 mol) in 1,2-dichloroethane (968 mL) is added dropwise over 1 hour and the reaction mixture is stirred at ambient temperature for 18 h. The reaction mixture is cooled to 0° C. and a saturated aqueous solution of sodium bisulfate (1.11 L, 533 mmol) is added portionwise and the mixture is separated. The aqueous phase is extracted with dichloromethane. The organic layer is washed with a saturated aqueous solution of sodium bicarbonate, water, and brine. The organic layer is dried over sodium sulfate, and the solvent is removed under reduced pressure to give a residue purified with a pad of silica using diethyl ether to give the title compound (229 g, 76%). 1H NMR (400 MHz, CDCl3) δ 7.70 (dd, J=4.6, 6.8 Hz, 1H), 6.95-6.92 (m, 1H).

reactant | 1-bromo-2,4-difluorobenzene | 968 mmol, 110 mL | BrC1=C(C=C(C=C1)F)F | C6H3BrF2
reactant | bromine | 1.16 mol, 59.7 mL | BrBr | Br2
reactant | sodium bisulfate | 533 mmol, 1.11 L | S([O-])(O)(=O)=O.[Na+]
solvent | 1,2-dichloroethane | 968 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 968 mL | ClCCCl | C2H4Cl2
catalyst | Iron | 291 mmol, 16.49 g | [Fe] | Fe
product | 1,5-Dibromo-2,4-difluorobenzene | 229 g, 76% | BrC1=C(C=C(C(=C1)Br)F)F | C6H2Br2F2
